US09290451B2
5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(4-hydroxy-2-methylbutan-2-yl)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 3-amino-3-methyl-butan-1-ol (CAN 42514-50-1) as starting materials, LC-MS (UV peak area/ESI) 100%, 319.1 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 3-amino-3-methyl-butan-1-ol | NC(CCO)(C)C | C5H13NO
product | 5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(4-hydroxy-2-methylbutan-2-yl)picolinamide | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)NC(C)(CCO)C | C18H26N2O3
